US07645771B2
Crude methyl 2,5-dichloro-3-{[(trifluoromethyl) sulfonyl]amino}benzoate (4.0 g) was dissolved in methanol (30 ml) and 4N NaOH (30 ml) was added while stirring at room temperature for 18 hrs. Removed solvent and added 4N HCl (10 ml). Stirred at room temperature for 4 hours. Filtered off solid to give 2,5-dichloro-3-{[(trifluoromethyl) sulfonyl]amino}benzoic acid hydrochloride in quantitative yield.

reactant | methyl 2,5-dichloro-3-{[(trifluoromethyl) sulfonyl]amino}benzoate | 4.0 g | ClC1=C(C(=O)OC)C=C(C=C1NS(=O)(=O)C(F)(F)F)Cl | C9H6Cl2F3NO4S
reactant | NaOH | 4N, 30 ml | [OH-].[Na+]
reactant | HCl | 4N, 10 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 2,5-dichloro-3-{[(trifluoromethyl) sulfonyl]amino}benzoic acid hydrochloride | quantitative yield | Cl.ClC1=C(C(=O)O)C=C(C=C1NS(=O)(=O)C(F)(F)F)Cl | InChI=1S/C8H4Cl2F3NO4S.ClH/c9-3-1-4(7(15)16)6(10)5(2-3)14-19(17,18)8(11,12)13;/h1-2,14H,(H,15,16);1H
